US05889026
(RS)-4-(4-Chloro-benzyl)-1-[2-hydroxy-3-(4-hydroxy-phenyl)-propyl]-piperidin-4-ol hydrochloride
The title compound, m.p. 172°-174° C. and MS: m/e=376.4 (M+H+), was prepared from (RS)-4-Oxiranylmethyl-phenol and 4-(4-Chloro-benzyl)-piperidin-4-ol.

reactant | (RS)-4-Oxiranylmethyl-phenol | O1C(C1)CC1=CC=C(C=C1)O | C9H10O2
reactant | 4-(4-Chloro-benzyl)-piperidin-4-ol | ClC1=CC=C(CC2(CCNCC2)O)C=C1 | C12H16ClNO
product | (RS)-4-(4-Chloro-benzyl)-1-[2-hydroxy-3-(4-hydroxy-phenyl)-propyl]-piperidin-4-ol hydrochloride | Cl.ClC1=CC=C(CC2(CCN(CC2)CC(CC2=CC=C(C=C2)O)O)O)C=C1 | InChI=1S/C21H26ClNO3.ClH/c22-18-5-1-17(2-6-18)14-21(26)9-11-23(12-10-21)15-20(25)13-16-3-7-19(24)8-4-16;/h1-8,20,24-26H,9-15H2;1H
